US06660744B1
A solution of phenol (1.99 g, 0.021 mol) in N,N-dimethylformamide (60 mL) was cooled to 0° C. and a 60% suspension of sodium hydride in parafine (0.89 g, 0.022 mol) was added at once. The mixture was stirred at this temperature for 10 min and 2,4-dibromopyridine was added at once. The mixture was allowed to warm up to ambient temperature while stirring under nitrogen for 72 hours and heated at 70° C. for 24 hours. The solvent was removed under reduced pressure; the residue was dissolved in ethyl acetate (150 mL) and washed with saturated aqueous sodium bicarbonate solution (100 mL), brine (80 mL), dried with magnesium sulfate and evaporated. The residue was purified by preparative RP-LC/MS (Gilson-Micromass C18, 5m, 130 A, 21 cm, 0%-100% acetonitrile-0.1M ammonium acetate over 9 min, 25 mL/min) to give 2-bromo-5-phenoxypyridine as a yellow oil (1.40 g, 0.0056 mol): 1H NMR (DMSO-d6, 400 MHz) 8.28 (s, 1H), 8.07 (d, 1H), 7.45 (t, 2H), 7.25 (t, 1H), 7.16 (d, 2H), 7.04 (d, 1H); MS: MH+250.

reactant | phenol | 0.021 mol, 1.99 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | 2,4-dibromopyridine | BrC1=NC=CC(=C1)Br | C5H3Br2N
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 2-bromo-5-phenoxypyridine | 0.0056 mol, 1.40 g | BrC1=NC=C(C=C1)OC1=CC=CC=C1 | C11H8BrNO
